US03966953
SYNTHESIS OF 3-ALLYL-2-[O-(METHYLCARBAMOYL) OXIMINO]-4-THIAZOLIDINONE
To a solution of (1.7 g) 3-allyl-2-oximino-4-thiazolidinone in 20 ml of acetone was added 1.0 ml methylisocyanate and 1 drop of triethylamine. The mixture was placed in a pressure bottle and left standing overnight at ambient temperature. The solution was concentrated to a solid residue. Recrystallized from ethyl acetate. Weight 1.7 g. m.p. 108°-110°C.

reactant | 3-allyl-2-oximino-4-thiazolidinone | 1.7 g | C(C=C)N1C(SCC1=O)=NO | C6H8N2O2S
reactant | methylisocyanate | 1.0 ml | CN=C=O | C2H3NO
solvent | acetone | 20 ml | CC(=O)C | C3H6O
catalyst | triethylamine | 1 drop | C(C)N(CC)CC | C6H15N
product | 3-ALLYL-2-[O-(METHYLCARBAMOYL) OXIMINO]-4-THIAZOLIDINONE | C(C=C)N1C(SCC1=O)=NOC(NC)=O | C8H11N3O3S
